US08202895B2
tert-Butyl {2-hydroxy-1-[3-(trifluoromethyl)phenyl]ethyl}methylcarbamate
A quantity of 438 ml of borane-tetrahydrofuran complex (1M solution in THF, 438 mmol) was introduced with ice cooling. Then 35 g (110 mmol) of N-Boc-2-(3-trifluoromethylphenyl)-DL-glycine were added in portions. The reaction mixture was stirred at RT for 2 h and then cautiously admixed with pieces of ice. After the end of the evolution of gas, the solvent was removed on a rotary evaporator. The aqueous residue was admixed with saturated sodium hydrogen carbonate solution and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulphate and freed from the solvent on a rotary evaporator. The residue was taken up in acetonitrile and 2.5% strength aqueous sodium hydrogen carbonate solution. Then 25.18 ml (109.62 mmol) of di-tert-butyl dicarbonate were added and the mixture was stirred at RT for 3 h. The acetonitrile was removed on a rotary evaporator. The residue was extracted three times with ethyl acetate, dried over sodium sulphate, filtered and freed from the solvent on a rotary evaporator. The residue was again admixed with 438 ml of borane-tetrahydrofuran complex (1M solution in THF, 438 mmol) and stirred at 70° C. for 3 h. It was worked up again, and an excess of a 4N solution of hydrogen chloride in dioxane was added to the complete work-up mixture, which was stirred overnight. Thereafter the solvent was removed on a rotary evaporator. The residue was dried in an HV and then admixed once again with 400 ml of borane-tetrahydrofuran complex (1M solution in THF, 400 mmol) and stirred overnight. It was then worked up and again, as described above, reacted with 25.18 ml (109.62 mmol) of di-tert-butyl dicarbonate. The crude product obtained after work-up was purified by preparative HPLC. Drying in an HV gave 10.2 g (29% of theory) of the title compound.

reactant | borane tetrahydrofuran | 438 mmol, 1M, 438 ml | B.O1CCCC1
reactant | N-Boc-2-(3-trifluoromethylphenyl)-DL-glycine | 110 mmol, 35 g | CC(C)(C)OC(=O)NC(C1=CC(=CC=C1)C(F)(F)F)C(=O)O | C14H16F3NO4
reactant | di-tert-butyl dicarbonate | 109.62 mmol, 25.18 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | borane tetrahydrofuran | 438 mmol, 1M, 438 ml | B.O1CCCC1
reactant | hydrogen chloride | Cl | ClH
reactant | borane tetrahydrofuran | 400 mmol, 1M, 400 ml | B.O1CCCC1
reactant | di-tert-butyl dicarbonate | 109.62 mmol, 25.18 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | O1CCOCC1 | C4H8O2
product | tert-Butyl {2-hydroxy-1-[3-(trifluoromethyl)phenyl]ethyl}methylcarbamate | OCC(C1=CC(=CC=C1)C(F)(F)F)N(C(OC(C)(C)C)=O)C | C15H20F3NO3
